US07402684B2
(S)-2-(4-p-Tolyloxy-phenoxymethyl)-pyrrolidine (S)-2-(4-p-tolyloxyphenoxymethyl)-pyrrolidine HCl:
(S)-2-(4-p-Tolyloxy-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (3.02 g, 7.88 mmol) was taken into 4M HCl in dioxane (10 mL) and reacted at room temperature for 12 h. The mixture was concentrated to dryness to obtain the title product (2.35 g, 7.35 mmol, 93% yield); MS; m/z 320. found 284 (M-36 HCl). 1H NMR (400 MHz, DMSO-d6) δ 1.70-1.78 (m, 1H), 1.87-1.94 (m, 1H), 1.96-2.01 (m, 1H), 2.08-2.14 (m, 1H), 2.27 (s, 3H), 3.17-3.24 (m, 2H), 3.86-3.92 (m, 1H), 4.10-4.15 (m, 1H), 4.20-4.24 (m, 1H), 6.82-6.84 (d, J=8.0, 2H), 6.99-7.0 (m, 4H), 7.15-7.17 (d, J=8.0, 2H), 9.34 (s, 1H).

reactant | (S)-2-(4-p-Tolyloxy-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 7.88 mmol, 3.02 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC1=CC=C(C=C1)OC1=CC=C(C=C1)C | C23H29NO4
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (S)-2-(4-p-Tolyloxy-phenoxymethyl)-pyrrolidine (S)-2-(4-p-tolyloxyphenoxymethyl)-pyrrolidine HCl | 7.35 mmol, 2.35 g, 93% yield | Cl.C1(=CC=C(C=C1)OC1=CC=C(OC[C@H]2NCCC2)C=C1)C.C1(=CC=C(C=C1)OC1=CC=C(OC[C@H]2NCCC2)C=C1)C | InChI=1S/2C18H21NO2.ClH/c2*1-14-4-6-17(7-5-14)21-18-10-8-16(9-11-18)20-13-15-3-2-12-19-15;/h2*4-11,15,19H,2-3,12-13H2,1H3;1H/t2*15-;/m00./s1
